US07326799B2
Synthesis of N-[(2S,3S)-2-hydroxy-1-[N-[(1S,2S)-2-hydroxycyclohexane-1-yl]amino]-1-oxo-3-heptyl]-1-[N-(morpholine-4-carbonyl)amino]cyclohexane carboxamide (Compound of the Formula IX)
Under ice-cooling, to 10 ml of an anhydrous tetrahydrofuran solution containing 256 mg (1 mmol) of 1-[N-(morpholine-4-carbonyl)amino]cyclohexanecarboxylic acid and 202 mg (2 mmol) of triethylamine was added 1 ml of an anhydrous tetrahydrofuran solution containing 121 mg (1 mmol) of pivaloyl chloride, and the resulting mixture was stirred at the same temperature for 2 hours. Moreover, the temperature of the reaction mixture was returned to room temperature and the mixture was stirred for 18 hours. Insoluble material in the reaction mixture was filtered off, and the filtrate was added to 80 ml of a chloroform solution containing 258 mg (1 mmol) of (2S,3S)-N-[(1S,2S)-2-hydroxycyclohexane-1-yl]-3-amino-2-hydroxyheptanamide, and the resulting mixture was stirred for 3 hours. Chloroform was additionally added to the reaction mixture, and the resulting mixture was washed successively with a 10% aqueous potassium hydrogen sulfate solution, a saturated aqueous sodium hydrogen carbonate solution and then a saturated NaCl solution, dried over anhydrous magnesium sulfate and the solvent was removed under reduced pressure. The residue was purified by silica gel column chromatography to obtain 468 mg (Yield: 94%) of the title compound.

reactant | 1-[N-(morpholine-4-carbonyl)amino]cyclohexanecarboxylic acid | 1 mmol, 256 mg | N1(CCOCC1)C(=O)NC1(CCCCC1)C(=O)O | C12H20N2O4
reactant | triethylamine | 2 mmol, 202 mg | C(C)N(CC)CC | C6H15N
reactant | pivaloyl chloride | 1 mmol, 121 mg | C(C(C)(C)C)(=O)Cl | C5H9ClO
reactant | (2S,3S)-N-[(1S,2S)-2-hydroxycyclohexane-1-yl]-3-amino-2-hydroxyheptanamide | 1 mmol, 258 mg | O[C@@H]1[C@H](CCCC1)NC([C@H]([C@H](CCCC)N)O)=O | C13H26N2O3
solvent | Chloroform | C(Cl)(Cl)Cl | CHCl3
solvent | tetrahydrofuran | 1 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
product | N-[(2S,3S)-2-hydroxy-1-[N-[(1S,2S)-2-hydroxycyclohexane-1-yl]amino]-1-oxo-3-heptyl]-1-[N-(morpholine-4-carbonyl)amino]cyclohexane carboxamide | 468 mg, Yield: 94% | O[C@H](C(=O)N[C@@H]1[C@H](CCCC1)O)[C@H](CCCC)NC(=O)C1(CCCCC1)NC(=O)N1CCOCC1 | C25H44N4O6
